US04359420
1.0 g of ethyl α-amino-1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate are dissolved in 20 ml of methylene chloride, treated with 0.65 ml of 37 percent aqueous formaldehyde solution and stirred in the presence of air at room temperature for 2 hours. The solution is subsequently washed twice with 10 ml of water each time. The organic phase is separated, dried and decolourised with active carbon. After filtration of the carbon, the filtrate is evaporated in vacuo and the residue is chromatographed on 20 g of silica gel. Elution is carried out firstly with chloroform and subsequently with chloroform/ethanol (985:15). The fractions which contain ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate as the main component are combined and evaporated in vacuo. The residue is dissolved in ethanol and crystallised by the addition of diisopropyl ether. There is obtained ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 162°-164° C.

reactant | ethyl α-amino-1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate | 1.0 g | NC(C(=O)OCC)=C1NC2=C(C(N(C1)C)=O)C=CC=C2 | C14H17N3O3
reactant | formaldehyde | 0.65 ml | C=O | CH2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
